US06232290B1
To a solution of methyl 4-(4-hydroxyphenyl)benzoate (3.00 g) and cyclohexanol (1.58 g) in tetrahydrofuran (60 ml) was added dropwise diethyl azodicarboxylate (2.48 ml) at 0-10° C. under nitrogen atmosphere, and the mixture was stirred at ambient temperature for 4 hours. After concentration, to the residue was added ethyl acetate (50 ml) and n-hexane (10 ml), and the resulting precipitate was removed by filtration and discarded. To the filtrate was added silica gel (12 g) and the mixture was evaporated. The residue was purified by column chromatography on silica gel (80 g) eluting with a mixed solvent of 5% ethyl acetate in n-hexane to give methyl 4-(4-cyclohexyloxyphenyl)benzoate (1.79 g) as a white solid.

reactant | methyl 4-(4-hydroxyphenyl)benzoate | 3.00 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C14H12O3
reactant | cyclohexanol | 1.58 g | C1(CCCCC1)O | C6H12O
reactant | diethyl azodicarboxylate | 2.48 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | methyl 4-(4-cyclohexyloxyphenyl)benzoate | 1.79 g | C1(CCCCC1)OC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C20H22O3
